US06359134B1
Ethyl 4-(4-pyridyl)benzoate
To a mixture of ethyl 4-bromobenzoate (2.29 g), 4-pyridyl borate (1.23 g), 1 M sodium hydrogen carbonate solution (30 ml) and 1,2-dimethoxyethane (40 ml) was added tetrakis(triphenylphosphine)palladium (0.3 g) and the mixture was stirred for 3 hours with reflux under nitrogen atmosphere. To the mixture was added water and the solution was extracted with ethyl acetate. The extract was washed with water, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography, and eluted with hexane-ethyl acetate (2:1) to give the title compound as crystals (1.15 g, 50.7%).

reactant | ethyl 4-bromobenzoate | 2.29 g | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
reactant | 4-pyridyl borate | 1.23 g | B(OC1=CC=NC=C1)([O-])[O-]
reactant | sodium hydrogen carbonate | 1 M, 30 ml | C(O)([O-])=O.[Na+]
reactant | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | Ethyl 4-(4-pyridyl)benzoate | 1.15 g, 50.7% | N1=CC=C(C=C1)C1=CC=C(C(=O)OCC)C=C1 | C14H13NO2
